US08633186B2
2-(3-Methoxybenzyloxy)-6-nitrobenzonitrile
Prepared as in Example 111c from 2,6-dinitrobenzonitrile and 3-methoxybenzylalcohol in 83% yield. 1H NMR (400 MHz, d-DMSO) δ 3.75 (s, 3H), 5.38 (s, 2H), 6.91 (d, J=8.0 Hz, 1H), 7.04 (d, J=7.6 Hz, 1H), 7.07 (s, 1H), 7.33 (t, J=8.0 Hz, 1H), 7.78 (d, J=8.8 Hz, 4H), 7.93-7.87 (m, 2H).

reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
reactant | 3-methoxybenzylalcohol | COC=1C=C(CO)C=CC1 | C8H10O2
product | 2-(3-Methoxybenzyloxy)-6-nitrobenzonitrile | 83% yield | COC=1C=C(COC2=C(C#N)C(=CC=C2)[N+](=O)[O-])C=CC1 | C15H12N2O4
